US09169254B2
Methylamine (12.3 ml, 24.60 mmol, 2.0 M solution in methanol) was added dropwise to a solution of 2-bromo-5-iodomethyl-1,3-dimethyl-benzene (400 mg, 1.23 mmol) in anhydrous DMF (12 ml), and the mixture was stirred at room temperature for two days. The reaction solution was concentrated under reduced pressure, and the residue was diluted with ethyl acetate. The organic layer was then sequentially washed with water and saturated brine and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-methanol) to give 1-(4-bromo-3,5-dimethylphenyl)-N-methylmethanamine (280 mg, 100%).

reactant | Methylamine | 24.60 mmol, 2.0 M, 12.3 ml | CN | CH5N
reactant | 2-bromo-5-iodomethyl-1,3-dimethyl-benzene | 1.23 mmol, 400 mg | BrC1=C(C=C(C=C1C)CI)C | C9H10BrI
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 1-(4-bromo-3,5-dimethylphenyl)-N-methylmethanamine | 280 mg, 100% | BrC1=C(C=C(C=C1C)CNC)C | C10H14BrN
